US06949542B2
8-Chloro-4-(3-pyrimidin-2-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-4-chloro-phenyl)-carbamic acid tert-butyl ester (Example J4) (121 mg, 0.5 mmol) and 3-oxo-3-(3-pyrimidin-2-yl-phenyl)-propionic acid tert-butyl ester (Example K44) (164 mg, 0.55 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (102 mg).

reactant | (2-amino-4-chloro-phenyl)-carbamic acid tert-butyl ester | 0.5 mmol, 121 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Cl)N)=O | C11H15ClN2O2
reactant | 3-oxo-3-(3-pyrimidin-2-yl-phenyl)-propionic acid tert-butyl ester | 0.55 mmol, 164 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=CC=N1)=O)=O | C17H18N2O3
product | 8-Chloro-4-(3-pyrimidin-2-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC=CC=N2)=O)C1 | C19H13ClN4O
